US04045576
Magnesium 2-amino-3-benzoylphenylacetate Trihydrate.
An aqueous solution of 6.36 g. (0.02 mole) of 2-amino-3-benzoylphenylacetic acid was treated with an aqueous solution of magnesium chloride (0.01 mole). A precipitate formed immediately. After 15 min. of stirring, the bright yellow precipitate was filtered and dried. The yield was 4.06 g. and the salt melted over the broad range of 150°-190° C.

reactant | 2-amino-3-benzoylphenylacetic acid | 0.02 mole | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)O | C15H13NO3
reactant | magnesium chloride | 0.01 mole | [Cl-].[Mg+2].[Cl-]
product | Magnesium 2-amino-3-benzoylphenylacetate Trihydrate | O.O.O.NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)[O-].[Mg+2].NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)[O-] | InChI=1S/2C15H13NO3.Mg.3H2O/c2*16-14-11(9-13(17)18)7-4-8-12(14)15(19)10-5-2-1-3-6-10;;;;/h2*1-8H,9,16H2,(H,17,18);;3*1H2/q;;+2;;;/p-2
